US04743601
3-Bromo-N-(2-hydroxyethyl)-7-trifluoromethyl-4-quinolinamine
A solution of 12.4 g of 3-bromo-4-chloro-7-trifluoromethylquinoline and 6.1 g of 2-aminoethanol in 30 ml of isopropanol was heated at reflux for 4 hours. The mixture was cooled and diluted with 150 ml of water and the solid was collected and recrystallized from isopropanol. The yield was 8.2 g, mp 140°-141° C.

reactant | 3-bromo-4-chloro-7-trifluoromethylquinoline | 12.4 g | BrC=1C=NC2=CC(=CC=C2C1Cl)C(F)(F)F | C10H4BrClF3N
reactant | 2-aminoethanol | 6.1 g | NCCO | C2H7NO
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
solvent | water | 150 ml | O | H2O
product | 3-Bromo-N-(2-hydroxyethyl)-7-trifluoromethyl-4-quinolinamine | BrC=1C=NC2=CC(=CC=C2C1NCCO)C(F)(F)F | C12H10BrF3N2O
